US07199147B2
In tetrahydrofuran (6 ml) was dissolved tert-butyl 1-benzyl-5-oxo-3-pyrrolidinylcarbamate (480 mg, 1.65 mmol), followed by adding thereto 4N-hydrogen chloride/dioxane (6.0 ml, 24 mmol), and the resulting mixture was stirred overnight at room temperature. After completion of the reaction, diethyl ether (35 ml) was added to the reaction solution, and the resulting mixture was stirred at room temperature for 30 minutes and the precipitate was collected by filtration. The precipitate was washed with diethyl ether and dried to obtain 4-amino-1-benzyl-2-pyrrolidinone hydrochloride (380 mg, 99%).

reactant | tert-butyl 1-benzyl-5-oxo-3-pyrrolidinylcarbamate | 1.65 mmol, 480 mg | C(C1=CC=CC=C1)N1CC(CC1=O)NC(OC(C)(C)C)=O | C16H22N2O3
reactant | hydrogen chloride dioxane | 24 mmol, 6.0 ml | Cl.O1CCOCC1
reactant | diethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 4-amino-1-benzyl-2-pyrrolidinone hydrochloride | 380 mg, 99% | Cl.NC1CC(N(C1)CC1=CC=CC=C1)=O | InChI=1S/C11H14N2O.ClH/c12-10-6-11(14)13(8-10)7-9-4-2-1-3-5-9;/h1-5,10H,6-8,12H2;1H
